US04374266
A mixture of 20 parts of anhydrous potassium fluoride, 20 parts of 4-chlorophthalic anhydride and 2 parts of Carbowax® m-peg 2000 catalyst was charged to a reaction vessel and heated at 220° C. for about 18 hours. The product was removed by distillation, then recrystallized from a chloroform-hexane solution to yield 8.13 parts of 4-fluorophthalic anhydride having a melting point of 76°-78° C. Following the procedure of Example 3B, the fluorophthalic anhydride is reacted with ammonia to yield the ammonium salts of a mixed 4- and 5-fluorophthalamic acid.

reactant | potassium fluoride | [F-].[K+]
reactant | 4-chlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
product | 4-fluorophthalic anhydride | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
